US07538123B2
8.40 g of 3-hydroxy-4-(2-propenyl)benzylalcohol (Tetrahedron, 56 (2000), 1873) was dissolved in 70 ml of acetic acid. Thereafter, 4.14 g of concentrated nitric acid and 0.6 ml of fuming nitric acid were added to the reaction solution while cooling on ice, and the obtained mixture was stirred at the same temperature for 20 minutes. Thereafter, the reaction solution was adjusted to be pH 6 with addition of a 5 N sodium hydroxide aqueous solution, while cooling on ice. It was then extracted with ethyl acetate. The extract was washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was then purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 4.68 g of 3-hydroxy-6-nitro-4-(2-propenyl)benzylalcohol.

reactant | 3-hydroxy-4-(2-propenyl)benzylalcohol | 8.40 g | OC=1C=C(CO)C=CC1CC=C | C10H12O2
reactant | nitric acid | 4.14 g | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 0.6 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-6-nitro-4-(2-propenyl)benzylalcohol | 4.68 g | OC=1C=C(CO)C(=CC1CC=C)[N+](=O)[O-] | C10H11NO4
